US05232948
To a solution of ethyl 3,5-dimethoxyphenylacetate (11.0 g, 52,32 mmol) in 200 ml of CH2Cl2 is added 75 ml (25 mmol, 1.4 eq) of 1.0M BBr3 in CH2Cl2. This is then refluxed for 36 hours. The mixture is concentrated in vacuo, then partitioned between EtOAc and HCl. The organics are dried (MgSO4) and concentrated in vacuo. This is then redissolved in EtOH and HCl is bubbled in for 5 minutes and then stirred overnight at room temperature. The mixture is concentrated in vacuo, then partitioned between EtOAc and saturated NaHCO3 solution. The organics are dried (MgSO4) and concentrated in vacuo. This is then chromatographed using silica gel and eluted with Et2O. The filtrate is concentrated in vacuo to obtain ethyl 3,5-dihydroxyphenylacetate which is confirmed by NMR and used directly in the next step.

reactant | ethyl 3,5-dimethoxyphenylacetate | 52,32 mmol, 11.0 g | COC=1C=C(C=C(C1)OC)CC(=O)OCC | C12H16O4
reactant | BBr3 | 25 mmol, 1.0M, 75 ml, 1.4 eq | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3,5-dihydroxyphenylacetate | OC=1C=C(C=C(C1)O)CC(=O)OCC | C10H12O4
